US08372855B2
4-chloro-6-(1,4-dioxa-spiro[4.5]decan-8-yl-oxy)-7-methoxy-quinazoline
6 ml phosphorus oxychloride are added dropwise to 12.1 g of 3,4-dihydro-4-oxo-6-(1,4-dioxa-spiro[4.5]decan-8-yl-oxy)-7-methoxy-quinazoline in 120 ml acetonitrile and the mixture is heated to an internal temperature of 40° C. Then 9.3 ml triethylamine are added dropwise and the reaction mixture is refluxed for 3 hours. The mixture is cooled to ambient temperature and left to stand overnight. The solution of the product is reacted further without purification (see Example III).

reactant | phosphorus oxychloride | 6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3,4-dihydro-4-oxo-6-(1,4-dioxa-spiro[4.5]decan-8-yl-oxy)-7-methoxy-quinazoline | 12.1 g | O=C1NC=NC2=CC(=C(C=C12)OC1CCC2(OCCO2)CC1)OC | C17H20N2O5
reactant | triethylamine | 9.3 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | 4-chloro-6-(1,4-dioxa-spiro[4.5]decan-8-yl-oxy)-7-methoxy-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC1CCC2(OCCO2)CC1)OC | C17H19ClN2O4
